US05104885
To a mechanically stirred mixture of 5-hydroxy-6-methoxy-4-methyl-8-nitroquinoline (WRAIR; 5.67 g, 0.023 mol), 1-bromo-5-(2-thienyl) pentane from previous step a (5.32 g, 0.023 mol) and HMPA (40 ml), at 115°-120° C., was added dropwise, during 45 min, a solution of Et3N (5 ml) and propylene oxide (10 ml). The mixture was heated at 115°-120° C. for 5 hr, allowed to cool and extracted with a solution of pet. ether (20°-40° C.) and Et2O (1:1 v/v, 200 ml). The extract was washed with 10% NaOH solution (3×75 ml) and the combined basic washings were re-extracted with pet. ether (20°-40°) and Et2O solution (1:1 v/v, 2×100 ml). The combined organic layers were washed with H2O (2×100 ml), dried (K2CO3), and treated with carbon (Darco G-60). Solvent evaporation gave 6-methoxy-4-methyl-8-nitro-5-[5-(2-thienyl) pentoxy] quinoline as a yellow solid, 5.61 g (61%), mp 51°-54° C. This material was used without further purification.

reactant | 5-hydroxy-6-methoxy-4-methyl-8-nitroquinoline | 0.023 mol, 5.67 g | OC1=C2C(=CC=NC2=C(C=C1OC)[N+](=O)[O-])C | C11H10N2O4
reactant | 1-bromo-5-(2-thienyl) pentane | BrCCCCCC=1SC=CC1 | C9H13BrS
reactant | HMPA | 40 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | propylene oxide | 10 ml | C1C(C)O1 | C3H6O
solvent | Et3N | 5 ml | CCN(CC)CC | C6H15N
product | 6-methoxy-4-methyl-8-nitro-5-[5-(2-thienyl) pentoxy] quinoline | COC=1C(=C2C(=CC=NC2=C(C1)[N+](=O)[O-])C)OCCCCCC=1SC=CC1 | C20H22N2O4S
